US04200641
A mixture of 9 parts of N-(2-chloroethyl)-2-nitro-4-(trifluoromethyl)benzenamine, 7.65 parts of 1-(diphenylmethyl)piperazine, 7.9 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanol. The product is filtered off and dried, yielding 4-(diphenylmethyl)-N-{2-nitro-4-(trifluoromethyl)phenyl]-1-piperazineethanamine; mp. 152.1° C.

reactant | N-(2-chloroethyl)-2-nitro-4-(trifluoromethyl)benzenamine | ClCCNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H8ClF3N2O2
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 4-(diphenylmethyl)-N-{2-nitro-4-(trifluoromethyl)phenyl]-1-piperazineethanamine | C1(=CC=CC=C1)C(N1CCN(CC1)CCNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C1=CC=CC=C1 | C26H27F3N4O2
